US06927228B2
(a) Ethyl 4′-formylbiphenyl-3-carboxylate
In a manner similar to that of Example 1(e), by reacting 12.6 ml (79 mmol) of ethyl 3-bromobenzoate with 15 g (100 mmol) of 4-formylbenzene boronic acid, 12 g (60%) of the expected product are obtained.

reactant | ethyl 3-bromobenzoate | 79 mmol, 12.6 ml | BrC=1C=C(C(=O)OCC)C=CC1 | C9H9BrO2
reactant | 4-formylbenzene boronic acid | 100 mmol, 15 g | C(=O)C1=CC=C(C=C1)B(O)O | C7H7BO3
product | Ethyl 4′-formylbiphenyl-3-carboxylate | 12 g, 60% | C(=O)C1=CC=C(C=C1)C1=CC(=CC=C1)C(=O)OCC | C16H14O3
